US06900354B2
N-Methyl-3-[4-(4-methyl-benzyloxy)-phenyl]-acrylamide
The title compound is prepared in analogy to example 11 b) from 3-(4-hydroxy-phenyl)-N-methyl-acrylamide and 1-bromomethyl-4-methyl-benzene. Yield=44%.

reactant | 3-(4-hydroxy-phenyl)-N-methyl-acrylamide | OC1=CC=C(C=C1)C=CC(=O)NC | C10H11NO2
reactant | 1-bromomethyl-4-methyl-benzene | BrCC1=CC=C(C=C1)C | C8H9Br
product | N-Methyl-3-[4-(4-methyl-benzyloxy)-phenyl]-acrylamide | Yield=44% | CNC(C=CC1=CC=C(C=C1)OCC1=CC=C(C=C1)C)=O | C18H19NO2
